US05463149
A 1-liter reactor was charged with 5.0 g (0.206 mole) of magnesium and 150 g of tetrahydrofuran, and the reaction was initiated by adding a piece of bromine and 35.6 g (0.2 mole) of n-heptyl bromide dropwise thereto under an atmosphere of nitrogen. After completion of the addition, the mixture was stirred for 2 hours under reflux of tetrahydrofuran and the resulting liquid was transferred to a 300-ml dropping funnel. Next, 30 g of tetrahydrofuran, 0.4 g of cuprous chloride and 49.5 g (0.18 mole) of 1-bromo-cis-3-tetradecene were placed in another 1-liter reactor and cooled to 0° C. Then, the above-described Grignard reagent was added dropwise thereto so that the temperature did not exceed 10° C. After completion of the reaction, 100 g of a saturated aqueous ammonium chloride solution was added and the resulting mixture was allowed to separate into two layers. The organic layer was recovered, freed of tetrahydrofuran under reduced pressure, and distilled to obtain 22.3 g of cis-10-henicosene (purity 95.1%, yield 75%, b.p. 171°-175° C./2 mmHg). MS(m/e): 56(100%), 294 (M+, 10%).

reactant | magnesium | 0.206 mole, 5.0 g | [Mg] | Mg
reactant | bromine | BrBr | Br2
reactant | n-heptyl bromide | 0.2 mole, 35.6 g | C(CCCCCC)Br | C7H15Br
reactant | 1-bromo-cis-3-tetradecene | 0.18 mole, 49.5 g | BrCC\C=C/CCCCCCCCCC | C14H27Br
reactant | ammonium chloride | 100 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 g | O1CCCC1 | C4H8O
product | cis-10-henicosene | 22.3 g, yield 75% | CCCCCCCCC\C=C/CCCCCCCCCC | C21H42
